US07576080B2
1,3-Diisopropylcarbodiimide (13.0 mg, 0.10 mmol) was added to a stirred mixture of 3-(3-{[5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl]oxy}propoxy)benzoic acid (21 mg, 0.050 mmol), 2-amino-acetamide hydrochloride (11 mg, 0.10 mmol), 1-hydroxybenzotriazole (6.7 mg, 0.05 mmol), diisopropylethylamine (40 mg, 0.30 mmol) and 4-dimethylaminopyridine (13 mg, 0.10 mmol) in N,N-dimethylformamide (1.0 mL). The mixture was stirred at room temperature for 6 hours and then concentrated in vacuo. The resultant residue was dissolved in ethyl acetate (30 mL), washed with aqueous sodium bicarbonate solution (2×25 mL) and the organic layer was separated and concentrated. The product was purified by column chromatography over silica gel using 5% methanol in 1:1 of ethyl acetate/hexanes to give 9.6 mg (40%) of N-(2-amino-2-oxoethyl)-3-(3-{[5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl]oxy}propoxy)benzamide as a white solid. MS [M+H] 481.1, 1H NMR (CDCl3) δ (ppm) 8.68 (s, 1H), 7.60-7.24 (m, 4H), 7.21 (s, 1H), 7.18-6.95 (m, 3H), 6.90 (d, J=7.8 Hz, 1H), 6.31 (b, 1H), 5.62 (b, 1H), 4.59 (t, J=6.0 Hz, 2H), 4.19, (d, J=5.1 Hz, 2H), 3.74 (t, J=6.0 Hz, 2H), 2.10 (m, 2H).

reactant | 1,3-Diisopropylcarbodiimide | 0.10 mmol, 13.0 mg | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 3-(3-{[5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl]oxy}propoxy)benzoic acid | 0.050 mmol, 21 mg | FC1=CC=C(C=C1)C1=CSC=2N=CN=C(C21)OCCCOC=2C=C(C(=O)O)C=CC2 | C22H17FN2O4S
reactant | 2-amino-acetamide hydrochloride | 0.10 mmol, 11 mg | Cl.NCC(=O)N
reactant | 1-hydroxybenzotriazole | 0.05 mmol, 6.7 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | diisopropylethylamine | 0.30 mmol, 40 mg | C(C)(C)N(CC)C(C)C | C8H19N
catalyst | 4-dimethylaminopyridine | 0.10 mmol, 13 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | N,N-dimethylformamide | 1.0 mL | CN(C=O)C | C3H7NO
product | N-(2-amino-2-oxoethyl)-3-(3-{[5-(4-fluorophenyl)thieno[2,3-d]pyrimidin-4-yl]oxy}propoxy)benzamide | 9.6 mg, 40% | NC(CNC(C1=CC(=CC=C1)OCCCOC=1C2=C(N=CN1)SC=C2C2=CC=C(C=C2)F)=O)=O | C24H21FN4O4S
